US07842696B2
LiOH (38.5 mg, 0.9 mmol) was added to a stirred solution of 2-(4-benzyloxy-benzoylamino)-2-methyl-propionic acid methyl ester (200 mg, 0.6 mmol) in THF:MeOH:H2O (3:1:1, 3.5 mL), and the resulting mixture was stirred at room temperature for 4 hrs. The reaction mixture was concentrated under reduced pressure to get the residue. Cold water was then added, acidified it with aqueous citric acid solution and extracted with EtOAc. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to afford 170 mg (90% yield) of 2-(4-benzyloxy-benzoylamino)-2-methyl-propionic acid.

reactant | LiOH | 0.9 mmol, 38.5 mg | [Li+].[OH-]
reactant | 2-(4-benzyloxy-benzoylamino)-2-methyl-propionic acid methyl ester | 0.6 mmol, 200 mg | COC(C(C)(C)NC(C1=CC=C(C=C1)OCC1=CC=CC=C1)=O)=O | C19H21NO4
reactant | water | O | H2O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF MeOH H2O | 3.5 mL | C1CCOC1.CO.O
product | 2-(4-benzyloxy-benzoylamino)-2-methyl-propionic acid | 170 mg, 90% yield | C(C1=CC=CC=C1)OC1=CC=C(C(=O)NC(C(=O)O)(C)C)C=C1 | C18H19NO4
